US05599852
LIQUID POLYMERS OF ε-CAPROLACTONE/p-DIOXANONE AT 60/40 INITIAL MOLE COMPOSITION
The procedure in Example 5A was substantially repeated, except that 68.48 grams (0.60mole) of ε-caprolactone and 40.83 grams (0.40 mole) of p-dioxanone were used. The copolymer was dried under vacuum (0.1 mm Hg) at 80° C. for about 80 hours to remove any unreacted monomer. The copolymer had an inherent viscosity of 0.19 dL/g in HFIP at 25° C. The copolymer was a liquid at room temperature. The molar ratio of PCL/PDS was found to be 57.2/42.8 by proton NMR.

reactant | ε-caprolactone | 0.60mole, 68.48 grams | C1(CCCCCO1)=O | C6H10O2
reactant | p-dioxanone | 0.40 mole, 40.83 grams | O1C(COCC1)=O | C4H6O3
product | ε-CAPROLACTONE p-DIOXANONE | C1(CCCCCO1)=O.O1C(COCC1)=O | InChI=1S/C6H10O2.C4H6O3/c7-6-4-2-1-3-5-8-6;5-4-3-6-1-2-7-4/h1-5H2;1-3H2
